US06987116B2
A mixture of (3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]aniline (135 mg, 0.57 mmol), pyridine hydrochloride (66 mg, 0.57 mmol) and 4-chlorothieno[2,3-b]pyridine-5-carbonitrile (0.1 g, 0.52 mmol) in 4 mL of 2-ethoxyethanol is heated at reflux for 24 hours. The solution is cooled and the solvent is evaporated. The resultant residue is treated with a minimum amount of methanol and the product is purified by flash column chromatography eluting with 3% methanol in dichloromethane. The fractions containing product are combined and concentrated. Ethyl acetate is added and the insoluble material collected by filtration to provide 55 mg of 4-[(3-chloro-4-[(1-methyl-1H-imidazol-2-yl)thio]phenyl)amino]thieno[2,3-b]pyridine-5-carbonitrile as a tan solid, mp>240° C.; 1H NMR (DMSO-d6) δ 3.61 (s, 3H), 6.53 (d, J=9 Hz, 1H), 7.15 (m, 1H), 7.17 (s, 1H), 7.44 (m, 1H), 7.52 (s, 1H), 7.54 (s, 1H), 7.81 (d, J=6 Hz, 1H), 8.53 (s, 1H), 9.76 (s, 1H); MS 396.2 (M−H)−.

reactant | 3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]aniline | 0.57 mmol, 135 mg | ClC=1C=C(N)C=CC1SC=1N(C=CN1)C | C10H10ClN3S
reactant | pyridine hydrochloride | 0.57 mmol, 66 mg | Cl.N1=CC=CC=C1
reactant | 4-chlorothieno[2,3-b]pyridine-5-carbonitrile | 0.52 mmol, 0.1 g | ClC1=C2C(=NC=C1C#N)SC=C2 | C8H3ClN2S
solvent | 2-ethoxyethanol | 4 mL | C(C)OCCO | C4H10O2
product | 4-[(3-chloro-4-[(1-methyl-1H-imidazol-2-yl)thio]phenyl)amino]thieno[2,3-b]pyridine-5-carbonitrile | 55 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C2C(=NC=C1C#N)SC=C2 | C18H12ClN5S2
